US04761413
A solution of veratrole (28.0 ml, 0.22M) in 95% ethanol (75 ml) was heated to 60° C. and, while stirring, was treated with iodine (50 g, 0.197M) and yellow mercuric oxide (30.0 g, 0.1385M). The iodine and mercuric oxide were added alternately in small portions over a period of 1.5 hours. After the addition was complete, the cooled mixture was filtered through Celite and concentrated. The residue was taken up in Et2O and again filtered. The Et2O solution was washed with solutions of sodium thiosulfate, 2N NaOH, saturated NaCl, dried over anhydrous K2CO3 and evaporated. The residue was distilled under reduced pressure to give 40.88 g, bp 110°-112° C. (2mm) pure 4-iodoveratrole [70% yield, literature: Gutzke et al., J. Org. Chem. 22, 1271 (1957), bp 80°-85° C. (1 mm)]. NMR (CDCl3) δ 3.80 ppm (s, 6H, (2x) OCH3), 6.57 (d, 1H, ArH6), 7.20 (m, 2H, ArH3 and ArH5).

reactant | veratrole | 0.22M, 28.0 ml | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | iodine | 0.197M, 50 g | II | I2
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4-iodoveratrole | 40.88 g, 70% yield | IC=1C=C(C(=CC1)OC)OC | C8H9IO2
